US05401772
3,5-Dichloro-4-(3'-isopropyl-4'-hydroxyphenoxy)-nitrobenzene (10.2 g), 6.75 g. of t-butyldimethylsilyl chloride, 4.06 g of imidazole, and 2 mg of N ,N-dimethylaminopyridine in 10 ml dimethylformamide are stirred 18 hours at room temperature. The solution is poured into ether and extracted six times with water. The ether is dried, filtered and stripped to afford 3,5-dichloro-4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-nitrobenzene. NMR (CDCl3): δ0.2 (6H, s), 1.1 (9H,s), 1.2 (6H,d), 3.3 (1H,m), 6.5 (1H,d of d), 6.7 (1H,d), 8.3 (2H,s).

reactant | 3,5-Dichloro-4-(3'-isopropyl-4'-hydroxyphenoxy)-nitrobenzene | 10.2 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl)[N+](=O)[O-] | C15H13Cl2NO4
reactant | t-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 4.06 g | N1C=NC=C1 | C3H4N2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-nitrobenzene | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C(C)C)Cl)[N+](=O)[O-] | C21H27Cl2NO4Si
